US04374262
6-bromo-2-naphthol is obtained according to the procedure of Example 1. A solution of acetic anhydride, sodium acetate, and the 6-bromo-2-naphthol in toluene is then refluxed for about 2 1/2 hours. Crude 2-acetoxy-6-bromonaphthalene is isolated therefrom by stripping the solvent from the organic layer after washing with water. The acetoxy compound is then purified by recrystallization from n-butanol.

reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | 6-bromo-2-naphthol | BrC=1C=C2C=CC(=CC2=CC1)O | C10H7BrO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-acetoxy-6-bromonaphthalene | C(C)(=O)OC1=CC2=CC=C(C=C2C=C1)Br | C12H9BrO2
